### PR TITLE
[Merged by Bors] - feat: units of polynomial rings

### PR DESCRIPTION
**Pull request by EmilieUthaiwat**
We proved that a polynomial is a unit if and only if all of its coefficients are nilpotent, except the constant term which is a unit.

Co-authored-by: Cyprien Chauveau cyprien.chauveau@etu.u-paris.fr
Co-authored-by: Lucas Pouillart lucas.pouillart@etu.u-paris.fr

---

I can backport this to mathlib3 if needed.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Nilpotent.lean [hunk 1]
```diff
@@ -11,6 +11,7 @@ Authors: Oliver Nash
 import Mathlib.Data.Nat.Choose.Sum
 import Mathlib.Algebra.Algebra.Bilinear
 import Mathlib.RingTheory.Ideal.Operations
+import Mathlib.Algebra.GeomSum
```
Comment (semorrison) [inline Mathlib/RingTheory/Nilpotent.lean:14]: How much extra does this pull in?

**Comment by semorrison** [comment]
Otherwise LGTM.

File: Mathlib/RingTheory/Nilpotent.lean (hunk 1 above)
Comment (EmilieUthaiwat) [reply Mathlib/RingTheory/Nilpotent.lean:14]: Mathlib.Algebra.GeomSum imports the following files:

import Mathlib.Algebra.BigOperators.Order
import Mathlib.Algebra.BigOperators.Ring
import Mathlib.Algebra.BigOperators.Intervals
import Mathlib.Tactic.Abel
import Mathlib.Data.Nat.Parity

**Comment by EmilieUthaiwat** [comment]
Thank you!

**Comment by EmilieUthaiwat** [comment]
Is there anything else that I should do concerning this PR?

**Comment by j-loreaux** [comment]
@semorrison I don't see any reason not to merge this, but I'm not doing a maintainer merge in case you wanted to wait.

File: Mathlib/RingTheory/Polynomial/Quotient.lean [hunk 2]
```diff
@@ -143,6 +143,34 @@ theorem polynomialQuotientEquivQuotientPolynomial_map_mk (I : Ideal R) (f : R[X]
...
+    intros I hI
+    let f := mapRingHom (Ideal.Quotient.mk I)
+    have hPQ : degree (f P) = 0 ∧ degree (f Q) = 0 := by
+      rw [← Nat.WithBot.add_eq_zero_iff, ← degree_mul, ← _root_.map_mul, hQ, map_one, degree_one]
+    have hcoeff : (f P).coeff n = 0 := by
+      refine' coeff_eq_zero_of_degree_lt _
+      rw [hPQ.1]
+      exact (@WithBot.coe_pos _ _ _ n).2 (Ne.bot_lt hn)
+    rw [coe_mapRingHom, coeff_map, ← RingHom.mem_ker, Ideal.mk_ker] at hcoeff
+    exact hcoeff }
```
Comment (ADedecker) [inline Mathlib/RingTheory/Polynomial/Quotient.lean:166]:
```suggestion
  . refine' isUnit_of_mul_eq_one _ (Q.coeff 0) _
    have h := (mul_coeff_zero P Q).symm
    rwa [hQ, coeff_one_zero] at h
  . intros n hn
    rw [nilpotent_iff_mem_prime]
    intros I hI
    let f := mapRingHom (Ideal.Quotient.mk I)
    have hPQ : degree (f P) = 0 ∧ degree (f Q) = 0 := by
      rw [← Nat.WithBot.add_eq_zero_iff, ← degree_mul, ← _root_.map_mul, hQ, map_one, degree_one]
    have hcoeff : (f P).coeff n = 0 := by
      refine' coeff_eq_zero_of_degree_lt _
      rw [hPQ.1]
      exact (@WithBot.coe_pos _ _ _ n).2 (Ne.bot_lt hn)
    rw [coe_mapRingHom, coeff_map, ← RingHom.mem_ker, Ideal.mk_ker] at hcoeff
    exact hcoeff
```

File: Mathlib/RingTheory/Polynomial/Quotient.lean [hunk 3]
```diff
@@ -143,6 +143,34 @@ theorem polynomialQuotientEquivQuotientPolynomial_map_mk (I : Ideal R) (f : R[X]
   rw [RingEquiv.symm_apply_apply, polynomialQuotientEquivQuotientPolynomial_symm_mk]
 #align ideal.polynomial_quotient_equiv_quotient_polynomial_map_mk Ideal.polynomialQuotientEquivQuotientPolynomial_map_mk
 
+/-- Let `P` be a polynomial over `R`. If `P` is a unit, then all its coefficients are nilpotent,
+except its constant term which is a unit. -/
+theorem _root_.Polynomial.IsUnit.coeff_isUnit_isNilpotent {P : Polynomial R} (hunit : IsUnit P) :
```
Comment (ADedecker) [inline Mathlib/RingTheory/Polynomial/Quotient.lean:148]: It feels strange to have the result in this file. I guess this is because this is the first files that imports everything you need?

**Review by ADedecker — COMMENTED** [review]
I just have two small comments, after that I'm going to maintainer merge this since it has been waiting for so long.

File: Mathlib/RingTheory/Polynomial/Quotient.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/RingTheory/Polynomial/Quotient.lean:148]: My instinct would be to put it in `RingTheory.Polynomial.Basic`. I've asked about it (and added some details) on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Reintroducing.20quotient.20rings.20in.20RingTheory.2EPolynomial.2EBasic).

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 4]
```diff
@@ -460,6 +467,30 @@ theorem ker_modByMonicHom (hq : q.Monic) :
 
 end ModByMonic
 
+/-- Let `P` be a polynomial over `R`. If its constant term is a unit and its other coefficients are
+nilpotent, then `P` is a unit. -/
+theorem IsUnit.isUnit_of_isNilpotent {P : Polynomial R} (hunit : IsUnit (P.coeff 0))
```
Comment (ADedecker) [inline Mathlib/RingTheory/Polynomial/Basic.lean:472]: Sorry I missed that on first read. I think this name is a bit too generic (there's no way to guess it's about polynomials!), I would suggest simply `Polynomial.isUnit_of_coeff_isUnit_isNilpotent`, or if you really prefer dot notation something like `IsUnit.isUnit_polynomial_of_isNilpotent` just to reference polynomials.

File: Mathlib/RingTheory/Polynomial/Quotient.lean (hunk 3 above)
Comment (EmilieUthaiwat) [reply Mathlib/RingTheory/Polynomial/Quotient.lean:148]: Thank you!

File: Mathlib/RingTheory/Polynomial/Basic.lean (hunk 4 above)
Comment (EmilieUthaiwat) [reply Mathlib/RingTheory/Polynomial/Basic.lean:472]: I thought that due to the namespace `Polynomial` (opened on line 43), the result would automatically be named `Polynomial.IsUnit.isUnit_of_isNilpotent`. Am I misunderstanding namespaces? Is the namespace `Polynomial` closed before `IsUnit.isUnit_of_isNilpotent`?

Comment (ADedecker) [reply Mathlib/RingTheory/Polynomial/Basic.lean:472]: Oh sorry I missed that :facepalm: I would still suggest using `isUnit_of_coeff_isUnit_isNilpotent` since the dot notation won't trigger anyway with your current name, but the most important is that it's in namespace `Polynomial` so you can keep the current name if you prefer.

Comment (EmilieUthaiwat) [reply Mathlib/RingTheory/Polynomial/Basic.lean]: I changed the name to `isUnit_of_coeff_isUnit_isNilpotent`. Thank you!

File: Mathlib/RingTheory/Polynomial/Quotient.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/RingTheory/Polynomial/Quotient.lean:148]: Okay, we got Johan's approval to import `Mathlib.RingTheory.Ideal.Quotient` in `RingTheory.Polynomial.Basic`, so you can just move everything there.

Comment (EmilieUthaiwat) [reply Mathlib/RingTheory/Polynomial/Quotient.lean:148]: The file which I actually need is `Mathlib.RingTheory.Ideal.QuotientOperations` (I also need `Ideal.mk_ker` from that file. I should have mentioned it earlier but I had forgotten about it. I apologize for this.). Is it fine to import `Mathlib.RingTheory.Ideal.QuotientOperations` in `RingTheory.Polynomial.Basic`?

Comment (ADedecker) [reply Mathlib/RingTheory/Polynomial/Quotient.lean:148]: Yes that's fine (this is precisely the import that was removed during the port).

Comment (EmilieUthaiwat) [reply Mathlib/RingTheory/Polynomial/Quotient.lean:148]: That's great news. I moved the results from `RingTheory.Polynomial.Quotient` to `RingTheory.Polynomial.Basic`. I have also changed the names of those results for more clarity.

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 5]
```diff
@@ -460,6 +468,58 @@ theorem ker_modByMonicHom (hq : q.Monic) :
...
+  refine' hind P₁.natDegree _ _ (fun i hi => _) rfl
+  · simp_rw [← h, hdeg₂]
+  · simp_rw [eraseLead_coeff_of_ne _ (Ne.symm hdeg), hunit]
+  · by_cases H : i ≤ P₁.natDegree
+    simp_rw [eraseLead_coeff_of_ne _ (ne_of_lt (lt_of_le_of_lt H hdeg₂)), hnil i hi]
+    simp_rw [coeff_eq_zero_of_natDegree_lt (lt_of_not_ge H), IsNilpotent.zero]
+
+/-- Let `P` be a polynomial over `R`. If `P` is a unit, then all its coefficients are nilpotent,
+except its constant term which is a unit. -/
+theorem coeff_isUnit_isNilpotent_of_isUnit {P : Polynomial R} (hunit : IsUnit P) :
```
Comment (ADedecker) [inline Mathlib/RingTheory/Polynomial/Basic.lean:497]: In this case the previous name was fine. I don't really have a preference, so keep the one you prefer.

**Comment by ADedecker** [comment]
Thanks and congratulations for your first PR! :tada: 
maintainer merge
